data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4337,4958,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([O+:10]=[C:11]([C:12](=[O:13])[O:14][CH3:15])[C:16](=[O:17])[O:18][CH3:19])[C:20]([CH3:21])=[O:22]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:20]([CH3:21])=[O:22])[O:10][C:11]1([C:12](=[O:13])[O:14][CH3:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,10.449828158054034,-50.70190588901646
2382,2647,[CH3:17][NH:18][C:19](=[O:20])[C:21]#[N+:22][C-:23]([C:24](=[O:25])[O:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([C:24](=[O:25])[O:26][CH3:27])([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[N:22]=[C:21]2[C:19]([NH:18][CH3:17])=[O:20],water,298.15,12.794385242835965,-61.07669195461643
4730,5402,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[NH:20][CH3:21])([C:22](=[O:23])[NH:24][CH3:25])[N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,15.175867885208776,-36.75801239158177
3335,3783,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[N:17]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[N:17]2,water,298.15,31.740389324018302,-7.695821522327219
183,200,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[CH:13]#[N+:14][CH-:15][C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:15]([C:16]([CH3:17])=[O:18])[N:14]=[CH:13]3,water,298.15,10.736352378466163,-61.27618012473837
516,563,[CH3:10][CH:11]=[NH+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21].[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:12][CH:11]3[CH3:10],water,298.15,15.502857643995776,-30.44208806626802
3117,3508,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([CH3:14])([CH3:15])[N:12]=[C:11]1[CH3:10],water,298.15,17.059787322771342,-40.50410708295526
2877,3196,[Br:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[CH2:14][CH2:15][CH2:16][CH2:17]1.[CH3:18][NH:19][C:20](=[O:21])[C-:22]([NH+:23]=[C:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34]>>[Br:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:24]([C:25]#[N:26])([C:27](=[O:28])[O:29][CH3:30])[NH:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[C:31](=[O:32])[NH:33][CH3:34],water,298.15,21.96924449533982,-28.61189317984045
4549,5189,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,10.236138215792916,-33.80207788473322
832,902,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:16]([C:17]([CH3:18])=[O:19])=[N:15][C:14]3([C:12]([NH:11][CH3:10])=[O:13])[C:20](=[O:21])[O:22][CH3:23],water,298.15,15.849018991762286,-53.13746699433886
2501,2778,[CH3:17][NH:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[N+:24]([CH3:25])[C-:26]([C:27]([CH3:28])=[O:29])[C:30](=[O:31])[NH:32][CH3:33].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:26]([C:27]([CH3:28])=[O:29])([C:30](=[O:31])[NH:32][CH3:33])[N:24]([CH3:25])[C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:22]#[N:23],water,298.15,30.93150494327249,-31.47205305242403
1482,1637,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21]#[N:22].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[N:16]([CH3:17])[C:18]2([C:19]#[N:20])[C:21]#[N:22],water,298.15,31.97525540166027,-9.351272812721971
